US05703110
Ethyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-ethylaminobenzimidazole-7-carboxylate
Methyl iodide (4.5 g) was added to a solution of ethyl 2-[[(2'-cyanobiphenyl-4-yl)methyl]amino]-3-(ethylthioureido)benzoate (1.8 g) in ethanol (50 ml), and the mixture was heated under reflux for 12 hours. To the reaction mixture was added 1N-HCl (60 ml) and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated to dryness and the concentrate was dissolved in ethyl acetate. The solution was washed with an aqueous solution of sodium hydrogen carbonate and water and dried. The solvent was evaporated to dryness and the residue was purified by column chromatography on silica gel to afford yellow syrup (0.96 g, 58%).

reactant | Methyl iodide | 4.5 g | CI | CH3I
reactant | ethyl 2-[[(2'-cyanobiphenyl-4-yl)methyl]amino]-3-(ethylthioureido)benzoate | 1.8 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CNC1=C(C(=O)OCC)C=CC=C1NC(=S)NCC | C26H26N4O2S
reactant | HCl | 60 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-ethylaminobenzimidazole-7-carboxylate | 0.96 g, 58% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(=CC=C2)C(=O)OCC)NCC | C26H24N4O2
